### PR TITLE
Introduce continuous bilinear forms

### PR DESCRIPTION
**Pull request by EtienneC30**
I create a type synonym for continuous bilinear form. Manipulation covariance bilinear form is easier than using the covariance matrix because we don't need to use decomposition in basis. I develop a small API, defining the matrix associated with a bilinear form and using this to redefine the covariance matrix in #48. I also define a positive semidefinite bilinear form and prove that it is equivalent to the matrix being positive semidefinite.

### CODE REVIEW

File: BrownianMotion/Auxiliary/ContinuousBilinForm.lean [hunk 1]
```diff
@@ -0,0 +1,152 @@
...
+
+/-- Polarization identity: a symmetric continuous bilinear form can be expressed through values
+it takes on the diagonal. -/
+lemma IsSymm.polarization (x y : E) (hf : f.IsSymm) :
+    f x y = (f (x + y) (x + y) - f x x - f y y) / 2 := by
+  simp only [map_add, ContinuousLinearMap.add_apply]
+  rw [hf.map_symm y x]
+  ring
+
+/-- A symmetric continuous bilinear form is characterized by the values it takes on the diagonla. -/
```
Comment (RemyDegenne) [inline BrownianMotion/Auxiliary/ContinuousBilinForm.lean:44]:
```suggestion
/-- A symmetric continuous bilinear form is characterized by the values it takes on the diagonal. -/
```

File: BrownianMotion/Auxiliary/ContinuousBilinForm.lean [hunk 2]
```diff
@@ -0,0 +1,152 @@
...
+lemma ext_of_isSymm {g : ContinuousBilinForm 𝕜 E} (hf : IsSymm f) (hg : IsSymm g)
+    (h : ∀ x, f x x = g x x) : f = g := by
+  ext x y
+  rw [hf.polarization, hg.polarization]
+  simp_rw [h]
+
+/-- A symmetric continuous bilinear form is characterized by the values it takes on the diagonla. -/
```
Comment (RemyDegenne) [inline BrownianMotion/Auxiliary/ContinuousBilinForm.lean:51]:
```suggestion
/-- A symmetric continuous bilinear form is characterized by the values it takes on the diagonal. -/
```

**Review by RemyDegenne — APPROVED** [review]
This is great!
